US08426411B2
To a solution of (1-((6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)methyl)-cyclobutyl)methanamine (0.225 g, 0.548 mmol) (prepared using A from Example #1, Step D, 2-(1-(tert-butoxycarbonylamino)cyclobutyl)acetic acid [prepared as described WO9921824A1], EDC•HCl, B with TEA, E with 4.0 M HCl in 1,4-dioxane) in DMF (10 mL) was added cyanoacetic acid (0.070 g, 0.822 mmol), HOBt (0.101 g, 0.658 mmol), EDC•HCl (0.126 g, 0.658 mmol) and DIEA (0.190 mL, 1.096 mmol) to give a brown solution. The mixture was stirred at ambient temperature for about 18 h. Water (20 mL) was added and the mixture was extracted with EtOAc (3×25 mL). The combined organic layers were dried over anhydrous MgSO4, filtered, and concd in vacuo. The crude material was purified by flash chromatography on silica gel eluting with a gradient of 0-10% MeOH in DCM to give N-((1-((6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)methyl)cyclobutyl)methyl)-2-cyanoacetamide as an off-white solid (0.030 g, 17%): LC/MS (Table 1, Method a) Rt=1.48 min; MS m/z: 324 (M+H)+.

reactant | (1-((6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)methyl)-cyclobutyl)methanamine | 0.548 mmol, 0.225 g | S(=O)(=O)(C1=CC=C(C)C=C1)N1C=CC2=C1N=CC=1N2C(=NN1)CC1(CCC1)CN | C20H22N6O2S
reactant | 2-(1-(tert-butoxycarbonylamino)cyclobutyl)acetic acid | C(C)(C)(C)OC(=O)NC1(CCC1)CC(=O)O | C11H19NO4
reactant | EDC•HCl | CCN=C=NCCCN(C)C.Cl
reactant | HCl | 4.0 M | Cl | ClH
reactant | cyanoacetic acid | 0.822 mmol, 0.070 g | C(#N)CC(=O)O | C3H3NO2
reactant | HOBt | 0.658 mmol, 0.101 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC•HCl | 0.658 mmol, 0.126 g | CCN=C=NCCCN(C)C.Cl
reactant | DIEA | 1.096 mmol, 0.190 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | Water | 20 mL | O | H2O
product | N-((1-((6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)methyl)cyclobutyl)methyl)-2-cyanoacetamide | 0.030 g, 17% | C1(=NN=C2N1C1=C(N=C2)NC=C1)CC1(CCC1)CNC(CC#N)=O | C16H17N7O
